US05140026
1-Nitro-4-[[4-(phenylmethoxy)butyl]thio]benzene
A mixture of 4-(4-nitrophenylthio)-1-butanol (10 mmol) and potassium carbonate (20 mmol) in acetone (100 mL) is treated with a solution of benzylbromide (11 mmol) in acetone (50 mL). When the addition is completed the mixture is heated at reflux temperature for 18 hrs, cooled, filtered, and the filtrate is concentrated to obtain the title compound.

reactant | 4-(4-nitrophenylthio)-1-butanol | 10 mmol | [N+](=O)([O-])C1=CC=C(C=C1)SCCCCO | C10H13NO3S
reactant | potassium carbonate | 20 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 11 mmol | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-Nitro-4-[[4-(phenylmethoxy)butyl]thio]benzene | [N+](=O)([O-])C1=CC=C(C=C1)SCCCCOCC1=CC=CC=C1 | C17H19NO3S
